US07186720B2
3a) 1-[4-Hydroxy-4-(3-(trifluoromethyl)phenyl)-1-piperidinyl]-2-(6-benzimidazolyl)-1-ethanone
A mixture of 1.46 g (0.0083 mol) of 1H-benzimidazol-6-ylacetic acid from preparation 3, 2.0 g (0.0081 mol) of 4-hydroxy-4-(3-(trifluoromethyl)phenyl)piperidine, 3.6 g of BOP and 3.4 ml of triethylamine in 40 ml of dimethylformamide is stirred at ambient temperature overnight. A mixture of ethyl acetate and of water is added, the two phases are separated, the organic phase is dried over sodium sulfate and the solvent is evaporated. The crude product is purified by chromatography on a column of silica gel, elution being carried out with an ethyl acetate/methanol=9/1 mixture, and the title compound is thus obtained.

reactant | 1H-benzimidazol-6-ylacetic acid | 0.0083 mol, 1.46 g | N1C=NC2=C1C=C(C=C2)CC(=O)O | C9H8N2O2
reactant | 4-hydroxy-4-(3-(trifluoromethyl)phenyl)piperidine | 0.0081 mol, 2.0 g | OC1(CCNCC1)C1=CC(=CC=C1)C(F)(F)F | C12H14F3NO
reactant | BOP | 3.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-Hydroxy-4-(3-(trifluoromethyl)phenyl)-1-piperidinyl]-2-(6-benzimidazolyl)-1-ethanone | OC1(CCN(CC1)C(CC=1C=CC2=C(N=CN2)C1)=O)C1=CC(=CC=C1)C(F)(F)F | C21H20F3N3O2
